US07109225B2
e] 2-(2-tert-Butyl-5-methyl-oxazol-4-yl)-ethanol
13.77 g of the above prepared (2-tert-butyl-5-methyl-oxazol-4-yl)-acetic acid (69.8 mmol) was dissolved in 460 ml of abs. THF and treated at 0° C. with 174.5 ml of 1M BH3,THF (2.5 eq.). The reaction mixture was then kept over night at ambient temperature. Careful quenching with ice, twofold extraction with AcOEt, washing with water, drying over sodium sulfate, and evaporation of the solvents left a crude product which was refluxed for 60 Min. in MeOH to liberate quantitatively the free alcohol. Removing of the solvent and flash chromatography (SiO2, AcOEt) delivered finally 9.23 g of the title compound as colorless oil.

reactant | (2-tert-butyl-5-methyl-oxazol-4-yl)-acetic acid | 69.8 mmol | C(C)(C)(C)C=1OC(=C(N1)CC(=O)O)C | C10H15NO3
solvent | THF | C1CCOC1 | C4H8O
product | 2-(2-tert-Butyl-5-methyl-oxazol-4-yl)-ethanol | C(C)(C)(C)C=1OC(=C(N1)CCO)C | C10H17NO2
